US06348608B1
(S)-α-Methylstyrene oxide (Table 6, entry 4):
(1S,2R)-3,4-Dihydronaphthalene oxide (Table 6, entry 5) Colorless oil, [α]25D=−38.8° (c 0.91, CHCl3).

reactant | (1S,2R)-3,4-Dihydronaphthalene oxide | [C@@H]12[C@@H](CCC3=CC=CC=C13)O2 | C10H10O
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (S)-α-Methylstyrene oxide | C[C@@]1(CO1)C1=CC=CC=C1 | C9H10O
